US08426447B2
(S)-2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-7′-(2-fluoropyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine (30 mg, 0.067 mmol) and palladium on carbon (7.14 mg, 0.067 mmol) were combined in 10 ml of MeOH and stirred under an atmosphere of hydrogen overnight. The solution was filtered and concentrated to afford (S)-4′-fluoro-7′-(2-fluoropyridin-3-yl)-2′-(tetrahydro-2H-pyran-4-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine as a white solid.

reactant | (S)-2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-7′-(2-fluoropyridin-3-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 0.067 mmol, 30 mg | O1CCC(=CC1)C1=CC=2[C@]3(C4=CC(=CC=C4OC2C(=C1)F)C=1C(=NC=CC1)F)N=C(OC3)N | C25H19F2N3O3
catalyst | palladium on carbon | 0.067 mmol, 7.14 mg | [Pd] | Pd
solvent | MeOH | 10 ml | CO | CH4O
product | (S)-4′-fluoro-7′-(2-fluoropyridin-3-yl)-2′-(tetrahydro-2H-pyran-4-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | FC1=CC(=CC=2[C@]3(C4=CC(=CC=C4OC12)C=1C(=NC=CC1)F)N=C(OC3)N)C3CCOCC3 | C25H21F2N3O3
